US07977372B2
A mixture of paraformaldehyde (15.3 g, 0.51 mol) and 3-(4-bromo-2-fluoro-phenyl)-N-(4-chloro-phenyl)-acrylamide (15 g, 42.5 mmol) was heated under reflux in toluene (150 mL), and sarcosine (15.2 g, 170 mmol, 4.0 equiv) was added in 4 portions over 4 hrs, the H2O formed was removed with the aid of a Dean-Stark trap. After 4 hours, the cooled mixture was filtered. The filtrate was concentrated, and the residue was purified by chromatography on silica gel eluted with dichloromethane-methanol to give 7.0 g of 4-(4-bromo-2-fluoro-phenyl)-1-methyl-pyrrolidine-3-carboxylic acid (4-chloro-phenyl)-amide. Yield was 40%. MS: calc'd 411 (MH+), exp 411 (MH+). 1H NMR (CDCl3, 400 MHz), 9.71 (s, 1H), 7.57 (d, 2H, J=8.8 Hz), 7.51 (t, 1H, J=7.6 Hz), 7.24 (t, 4H, J=8.8 Hz), 4.30 (q, 1H, J=8.8 Hz), 3.76-3.94 (m, 2H), 3.40-3.62 (m, 3H), 2.92 (s, 3H).

reactant | paraformaldehyde | 0.51 mol, 15.3 g | C=O | CH2O
reactant | 3-(4-bromo-2-fluoro-phenyl)-N-(4-chloro-phenyl)-acrylamide | 42.5 mmol, 15 g | BrC1=CC(=C(C=C1)C=CC(=O)NC1=CC=C(C=C1)Cl)F | C15H10BrClFNO
reactant | sarcosine | 170 mmol, 15.2 g, 4.0 equiv | N(C)CC(=O)O | C3H7NO2
reactant | H2O | O | H2O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-bromo-2-fluoro-phenyl)-1-methyl-pyrrolidine-3-carboxylic acid (4-chloro-phenyl)-amide | 7.0 g, Yield was 40% | ClC1=CC=C(C=C1)NC(=O)C1CN(CC1C1=C(C=C(C=C1)Br)F)C | C18H17BrClFN2O
